US07317125B2
Preparation of furan-2-carboxylic acid N′-[2-(5-fluoro-2′-trifluoromethoxy-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide
A solution of (5-fluoro-2′-trifluoromethoxy-biphenyl-2-yloxy)-acetic acid (174 mg, 0.52 mmol) and furan-2-carboxylic acid N′-isopropyl-hydrazide (90 mg, 0.53 mmol) in DMF (5 ml) was treated with diisopropyl amine (0.235 ml, 1.32 mmol) and PyBroP (370 mg, 0.79 mmol) at room temperature overnight. The reaction mixture was partitioned between saturated aqueous sodium bicarbonate and ethyl acetate. The organic layer was successively washed with water and brine, then dried over sodium sulfate, filtered and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 30-80% ethyl acetate in hexanes gradient to afford the product as a white solid (110 mg, 44%). MS m/e 481.38 (M+H+)

reactant | (5-fluoro-2′-trifluoromethoxy-biphenyl-2-yloxy)-acetic acid | 0.52 mmol, 174 mg | FC=1C=CC(=C(C1)C1=C(C=CC=C1)OC(F)(F)F)OCC(=O)O | C15H10F4O4
reactant | furan-2-carboxylic acid N′-isopropyl-hydrazide | 0.53 mmol, 90 mg | C(C)(C)NNC(=O)C=1OC=CC1 | C8H12N2O2
reactant | diisopropyl amine | 1.32 mmol, 0.235 ml | C(C)(C)NC(C)C | C6H15N
reactant | PyBroP | 0.79 mmol, 370 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | furan-2-carboxylic acid N′-[2-(5-fluoro-2′-trifluoromethoxy-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide | 110 mg, 44% | FC=1C=CC(=C(C1)C1=C(C=CC=C1)OC(F)(F)F)OCC(=O)N(NC(=O)C=1OC=CC1)C(C)C | C23H20F4N2O5
